US06147088
Step A: 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid benzyl ester
To a solution of 2-piperidin-2-yl-ethanol (2.04 g in 50 mL methylene chloride) at 0° C. was added 2.64 mL of triethylamine and 5 mg N,N-dimethylaminopyridine. To the stirred solution, 2.45 mL of benzyl chloroformate was added dropwise and the reaction allowed to proceed at room temperature. After 2 hours, the mixture was diluted with ethyl acetate and washed sequentially with 10% aqueous sodium bisulfate, water and brine. The organic portion was dried over magnesium sulfate and purified by flash chromatography on silica gel (hexane:ethyl acetate, 70:30) to give the title compound (2.05 g).

reactant | 2-piperidin-2-yl-ethanol | 50 mL, 2.04 g | N1C(CCCC1)CCO | C7H15NO
reactant | triethylamine | 2.64 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 2.45 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid benzyl ester | 2.05 g | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCO | C15H21NO3
